US07291631B2
Using General Procedure A: Reaction of 4-[(3-Methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester in dry CH3CN with 4-Bromomethyl-benzoimidazole-1-carboxylic acid tert-butyl ester, DIPEA and KI gave 4-{[(1-tert-Butoxycarbonyl-piperidin-4-yl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester as a white foam. Deprotection with TFA using General Procedure F gave (1H-Benzoimidazol-4-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine.

reactant | 4-[(3-Methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=CC=C1C | C17H27N3O2
reactant | 4-Bromomethyl-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC=C2CBr | C13H15BrN2O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 4-{[(1-tert-Butoxycarbonyl-piperidin-4-yl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC=C2CN(CC2=NC=CC=C2C)C2CCN(CC2)C(=O)OC(C)(C)C | C30H41N5O4
